US06677368B2
2-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic Acid [2-(2,2,2-Trifluoro-ethylamino)-ethyl]-amide
A mixture of 2-[4-(3-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (53 mg, 0.15 mmol), HOBt (28 mg), EDC (36 mg), TEA (0.042 mL) and N1-(2,2,2-trifluoro-ethyl)-ethane-1,2-diamine (0.036 mL) in DMF (1 mL) was stirred at rt for 48 hours. The solvent was removed and diluted with sat. NaHCO3. It was then extracted with DCM, dried and concentrated. The residue was purified on a silica gel column to give 52 mg (71%) of the titled compound.

reactant | 2-[4-(3-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid | 0.15 mmol, 53 mg | FC=1C=C(C=CC1)C1=C2/C(/C(NC2=CC=C1)=O)=C/C=1NC(=CC1C(=O)O)C | C21H15FN2O3
reactant | HOBt | 28 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 36 mg
reactant | N1-(2,2,2-trifluoro-ethyl)-ethane-1,2-diamine | 0.036 mL | FC(CNCCN)(F)F | C4H9F3N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic Acid [2-(2,2,2-Trifluoro-ethylamino)-ethyl]-amide | 52 mg, 71% | FC(CNCCNC(=O)C1=C(NC(=C1)C)\C=C\1/C(NC2=CC=CC(=C12)C1=CC(=CC=C1)F)=O)(F)F | C25H22F4N4O2
